### PR TITLE
[Merged by Bors] - feat: start building an API for vector fields on manifolds

### PR DESCRIPTION
**Pull request by sgouezel**
Notably, define the pullback of vector fields, and show that the pullback of a differentiable vector field under a C^2 map is differentiable.

More API to come in further PRs. Once all the API is there, it will be easy to define the Lie algebra of a Lie group using left-invariant vector fields, in #18396.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 1]
```diff
@@ -1815,6 +1815,14 @@ theorem contDiffAt_map_inverse [CompleteSpace E] (e : E ≃L[𝕜] F) :
   convert contDiffAt_ring_inverse 𝕜 (1 : (E →L[𝕜] E)ˣ)
   simp [O₂, one_def]
 
+/-- At an invertible map `e : M →L[R] M₂` between Banach spaces, the operation of
+inversion is `C^n`, for all `n`. -/
+theorem ContinuousLinearMap.IsInvertible.contDiffAt_map_inverse [CompleteSpace E] {e : E →L[𝕜] F}
+    (he : e.IsInvertible) :
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1821]: Optional: you could combine this line and the next one.

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 2]
```diff
@@ -0,0 +1,317 @@
...
+
+We define the pullback of a vector field under a map, as
+`VectorField.mpullback I I' f V x := (mfderiv I I' f x).inverse (V (f x))`
+(together with the same notion within a set).
+
+We start developing API around this notion.
+
+All these are given in the `VectorField` namespace because pullbacks, Lie brackets, and so on,
+are notions that make sense in a variety of contexts. We also prefix the notions with `m` to
+distinguish the manifold notions from the vector spaces notions.
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:25]: "vector space"?

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 3]
```diff
@@ -0,0 +1,317 @@
...
+manifold notions from the vector spaces notions. For instance, the Lie bracket of two vector
+fields in a manifold is denoted with `VectorField.mlieBracket I V W x`, where `I` is the relevant
+model with corners, `V W : Π (x : M), TangentSpace I x` are the vector fields, and `x : M` is
+the basepoint.
+-/
+
+variable {𝕜 : Type*} [NontriviallyNormedField 𝕜]
+  {H : Type*} [TopologicalSpace H] {E : Type*} [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+  {I : ModelWithCorners 𝕜 E H}
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:52]: up to you if you want to remove the line break before this line (and also below)

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 4]
```diff
@@ -0,0 +1,317 @@
...
+  {H' : Type*} [TopologicalSpace H'] {E' : Type*} [NormedAddCommGroup E'] [NormedSpace 𝕜 E']
+  {I' : ModelWithCorners 𝕜 E' H'}
+  {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M']
+  {H'' : Type*} [TopologicalSpace H''] {E'' : Type*} [NormedAddCommGroup E''] [NormedSpace 𝕜 E'']
+  {I'' : ModelWithCorners 𝕜 E'' H''}
+  {M'' : Type*} [TopologicalSpace M''] [ChartedSpace H'' M'']
+  {f : M → M'} {s t : Set M} {x x₀ : M}
+
+instance {n : ℕ} [n.AtLeastTwo] [IsManifold I (minSmoothness 𝕜 (ofNat(n))) M] :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:61]: Should these instances go in another file?
Should they be scoped (to e.g. the `Manifold` or `VectorField` namespace)?

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 5]
```diff
@@ -0,0 +1,317 @@
...
+  simp [mpullbackWithin_apply]
+
+lemma mpullbackWithin_neg :
+    mpullbackWithin I I' f (-V) s = - mpullbackWithin I I' f V s := by
+  ext x
+  simp [mpullbackWithin_apply]
+
+lemma mpullback_apply :
+    mpullback I I' f V x = (mfderiv I I' f x).inverse (V (f x)) := rfl
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:135]: How about adding the `smul` versions also? (You only have them for `mpullbackWithin`.)

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 6]
```diff
@@ -0,0 +1,317 @@
...
+  ext x
+  simp [mpullback_apply, mpullbackWithin_apply]
+
+lemma mpullbackWithin_eq_pullbackWithin {f : E → E'} {V : E' → E'} {s : Set E} :
+    mpullbackWithin 𝓘(𝕜, E) 𝓘(𝕜, E') f V s = pullbackWithin 𝕜 f V s := by
+  ext x
+  simp only [mpullbackWithin, mfderivWithin_eq_fderivWithin, pullbackWithin]
+  rfl
+
+@[simp] lemma mpullback_id {V : Π (x : M), TangentSpace I x} : mpullback I I id V = V := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:164]: Add the same result for `mpullbackWithin`?

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 7]
```diff
@@ -0,0 +1,317 @@
...
+lemma mpullback_neg :
+    mpullback I I' f (-V) = - mpullback I I' f V := by
+  ext x
+  simp [mpullback_apply]
+
+@[simp] lemma mpullbackWithin_univ : mpullbackWithin I I' f V univ = mpullback I I' f V := by
+  ext x
+  simp [mpullback_apply, mpullbackWithin_apply]
+
+lemma mpullbackWithin_eq_pullbackWithin {f : E → E'} {V : E' → E'} {s : Set E} :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:158]: Add the same result for `mpullback`?

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 8]
```diff
@@ -0,0 +1,317 @@
...
+/-- The pullback of a differentiable vector field by a `C^n` function with `2 ≤ n` is
+differentiable. Version within a set at a point. -/
+protected lemma _root_.MDifferentiableWithinAt.mpullbackWithin_vectorField_inter
+    (hV : MDifferentiableWithinAt I' I'.tangent
+      (fun (y : M') ↦ (V y : TangentBundle I' M')) t (f x₀))
+    (hf : ContMDiffWithinAt I I' n f s x₀) (hf' : (mfderivWithin I I' f s x₀).IsInvertible)
+    (hx₀ : x₀ ∈ s) (hs : UniqueMDiffOn I s) (hmn : 2 ≤ n) :
+    MDifferentiableWithinAt I I.tangent
+      (fun (y : M) ↦ (mpullbackWithin I I' f V s y : TangentBundle I M)) (s ∩ f ⁻¹' t) x₀ := by
+  /- We want to apply the general theorem `MDifferentiableWithinAt.clm_apply_of_inCoordinates`,
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:183]: You're saying "general" twice in this paragraph.

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 9]
```diff
@@ -0,0 +1,317 @@
...
+
+@[simp] lemma mpullback_id {V : Π (x : M), TangentSpace I x} : mpullback I I id V = V := by
+  ext x
+  simp [mpullback]
+
+/-! ### Regularity of pullback of vector fields -/
+
+section
+
+variable [IsManifold I 2 M] [IsManifold I' 2 M'] [CompleteSpace E]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:172]: Is completeness required? For which results? (Can you add a comment, if this is merely fore convenience?)

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 10]
```diff
@@ -0,0 +1,317 @@
...
+    (hV : MDifferentiableWithinAt I' I'.tangent
+      (fun (y : M') ↦ (V y : TangentBundle I' M')) t y₀)
+    (hf : ContMDiffWithinAt I I' n f s x₀) (hf' : (mfderivWithin I I' f s x₀).IsInvertible)
+    (hx₀ : x₀ ∈ s) (hs : UniqueMDiffOn I s) (hmn : 2 ≤ n) (h : y₀ = f x₀) :
+    MDifferentiableWithinAt I I.tangent
+      (fun (y : M) ↦ (mpullbackWithin I I' f V s y : TangentBundle I M)) (s ∩ f⁻¹' t) x₀ := by
+  subst h
+  exact hV.mpullbackWithin_vectorField_inter hf hf' hx₀ hs hmn
+
+/-- The pullback of a `C^m` vector field by a `C^n` function with `m + 1 ≤ n` is `C^m`.
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:252]: This doc-string doesn't match the statement. Can you update it, please?
(The statement of the doc-string would also be nice, though. Is that part of a future PR?)

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 11]
```diff
@@ -0,0 +1,317 @@
...
+  simp only [mpullbackWithin, mfderivWithin_eq_fderivWithin, pullbackWithin]
+  rfl
+
+@[simp] lemma mpullback_id {V : Π (x : M), TangentSpace I x} : mpullback I I id V = V := by
+  ext x
+  simp [mpullback]
+
+/-! ### Regularity of pullback of vector fields -/
+
+section
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:170]: give this section a name (also update the `end`), perhaps this?
```suggestion
section Regularity

**Review by grunweg — COMMENTED** [review]
I took a first look: very nice. I didn't scrutinise the long main proof so far.

**Comment by grunweg** [comment]
awaiting-author

File: Mathlib/Geometry/Manifold/VectorField.lean (hunk 3 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/VectorField.lean:52]: No, it's on purpose: I want to keep things cleanly separated.

File: Mathlib/Geometry/Manifold/VectorField.lean (hunk 10 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/VectorField.lean:252]: Yes, it's part of the next PR. Copy-paste mistake, presumably. Fixed.

**Comment by sgouezel** [comment]
Thanks for the review! I have taken all your comments into account, and left open the ones where there was something to say.

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 12]
```diff
@@ -0,0 +1,339 @@
...
+/-!
+# Vector fields in manifolds
+
+We study functions of the form `V : Π (x : M) → TangentSpace I x` on a manifold, i.e.,
+vector fields.
+
+We define the pullback of a vector field under a map, as
+`VectorField.mpullback I I' f V x := (mfderiv I I' f x).inverse (V (f x))`
+(together with the same notion within a set).
+
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorField.lean:20]: Given that this is a wrong-way map, I think we should highlight how it can exist. Maybe something like:
```suggestion
Note that the pullback uses the junk-value pattern: if the derivative of the map is not invertible,
then pullback is given the junk value zero.
```
(I appreciate this is already flagged one level down in the documentation for affine story, but I think it deserves repeating here.)

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 13]
```diff
@@ -0,0 +1,339 @@
...
+/-! ### Pullback of vector fields in manifolds -/
+
+open ContinuousLinearMap
+
+variable {V W V₁ W₁ : Π (x : M'), TangentSpace I' x}
+variable {c : 𝕜} {m n : WithTop ℕ∞} {t : Set M'} {y₀ : M'}
+
+variable (I I') in
+/-- The pullback of a vector field under a map between manifolds, within a set `s`. -/
+def mpullbackWithin (f : M → M') (V : Π (x : M'), TangentSpace I' x) (s : Set M) (x : M) :
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorField.lean:91]: Again, I'd probably flag the junk-value pattern here and in `mpullback` below.

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 14]
```diff
@@ -0,0 +1,339 @@
...
+
+open Set Function Filter
+open scoped Topology Manifold ContDiff
+
+noncomputable section
+
+/- We work in the `VectorField` namespace because pullbacks, Lie brackets, and so on, are notions
+that make sense in a variety of contexts. We also prefix the notions with `m` to distinguish the
+manifold notions from the vector spaces notions. For instance, the Lie bracket of two vector
+fields in a manifold is denoted with `VectorField.mlieBracket I V W x`, where `I` is the relevant
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorField.lean:44]: I note that the documentation is a little ahead of the PR sequencing here (since `mlieBracket` does not yet exist) but IMHO this is fine as the final PR is now close.

**Review by ocfnash — APPROVED** [review]
Some superficial remarks about doc strings but thanks to previous review I think this is now ready.

bors d+
